US04730053
S-[2-(4-nitrophenylcarbamoyl)-phenylselenyl]-thiophenol
Prepared similar to example 1 from 5 g (15,7 mmol) of 2-(4-nitrophenyl)-1,2-benzisoselenazole-3(2H)-one and 1,75 g (15,9 mmol) thiophenol.

reactant | 2-(4-nitrophenyl)-1,2-benzisoselenazole-3(2H)-one | 15,7 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H8N2O3Se
reactant | thiophenol | 15,9 mmol, 1,75 g | C1(=CC=CC=C1)S | C6H6S
product | S-[2-(4-nitrophenylcarbamoyl)-phenylselenyl]-thiophenol | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)[Se]SC1=CC=CC=C1 | C19H14N2O3SSe
